US09126950B2
Synthesis of tert-butyl (2-hydroxy-5-nitrophenyl)carbamate.
In a 50 mL 3-neck RBF, 2-amino-4-nitrophenol (3.0 g) in THF (20 mL), di-tert-butyl dicarbonate (4.25 g) and TEA (3.94 g) were charged. The reaction mixture was stirred at room temperature for 1.5 h. The reaction was monitored by TLC using hexane:ethyl acetate (6:4) as mobile phase. After completion of the reaction, THF was removed under reduced pressure at 50° C. to give light brown color oil. Purification was carried out by column chromatography. Desired product eluted with 10% Ethyl acetate in hexane to give, after concentration, 3.2 g of tert-butyl (2-hydroxy-5-nitrophenyl)carbamate. 1H NMR: DMSO-d6 (400 MHz) 1.485 (s, 9H), 6.98 (d, 1H, J=8.8), 7.86 (dd, 1H, J=2.8, 8.8), 8.21 (s, 1H), 8.64 (d, 1H, J=2.4), 11.57 (s, 1H).

reactant | 2-amino-4-nitrophenol | 3.0 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | di-tert-butyl dicarbonate | 4.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (2-hydroxy-5-nitrophenyl)carbamate | OC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C11H14N2O5
